US07981883B2
8.c. Synthesis of 3-methyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid
A mixture of 3-methyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid ethyl ester (570 mg, 2.5 mmol) in MeOH (15 ml) and lithium hydroxide monohydrate (284 mg, 3.8 mmol) in H2O (3 ml) was stirred overnight at RT.

reactant | 3-methyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid ethyl ester | 2.5 mmol, 570 mg | C(C)OC(=O)C1CCC2(CC(=NO2)C)CC1 | C12H19NO3
reactant | lithium hydroxide monohydrate | 3.8 mmol, 284 mg | O.[OH-].[Li+]
solvent | MeOH | 15 ml | CO | CH4O
solvent | H2O | 3 ml | O | H2O
product | 3-methyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid | CC1=NOC2(C1)CCC(CC2)C(=O)O | C10H15NO3
